US07338958B2
1.12) Production of (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-(2-hydroxyethyl)-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide
A solution of 200 mg (0.55 mmol) of (RS)-S-(4-aminophenyl)-S-(2-hydroxyethyl)-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide in 2 ml of acetonitrile and 0.5 ml of water is mixed with 0.17 ml of a 4N solution of HCl in dioxane. 198 mg (0.67 mmol) of (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol in 1.5 ml of acetonitrile is added, and the batch is stirred for 20 hours at 80° C. The solvent is removed, and the remaining residue is purified by chromatography (DCM/EtOH 9: 1). 148 mg (0.24 mmol, corresponding to 44% of theory) of the product is obtained.

reactant | (RS)-S-(4-aminophenyl)-S-(2-hydroxyethyl)-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide | 0.55 mmol, 200 mg | NC1=CC=C(C=C1)S(=O)(=NS(=O)(=O)CC[Si](C)(C)C)CCO | C13H24N2O4S2Si
reactant | HCl | Cl | ClH
reactant | (R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]-2-methyl-butan-2-ol | 0.67 mmol, 198 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](C(C)(O)C)C | C9H13BrClN3O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | 0.5 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | (RS)-S-[4-({5-bromo-4-[(R)-(2-hydroxy-1,2-dimethylpropyl)amino]pyrimidin-2-yl}amino)phenyl]-S-(2-hydroxyethyl)-N-[2-(trimethylsilyl)ethylsulfonyl]sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NS(=O)(=O)CC[Si](C)(C)C)CCO)N[C@@H](C(C)(C)O)C | C22H36BrN5O5S2Si
